US08084448B2
A. 5-[2-Benzyloxy-4-((E)-3-oxo-3-phenylpropenyl)-phenyl]-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one
1-Phenylpropenone (58 mg, 0.44 mmol), 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one (200 mg, 0.37 mmol), Pd(OAc)2 (4 mg), triethylamine (372 mg, 0.367 mmol), and acetonitrile (3 mL) are placed in a microwave vial and heated at 120° C. for 15 min. The mixture is filtered over Celite and washed with acetonitrile. The filtrate is evaporated to give the title compound which is used directly in the next step.

reactant | 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one | 0.37 mmol, 200 mg | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)I)N1CC(N(S1(=O)=O)CC[Si](C)(C)C)=O | C20H25IN2O4SSi
reactant | triethylamine | 0.367 mmol, 372 mg | C(C)N(CC)CC | C6H15N
catalyst | Pd(OAc)2 | 4 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | 5-[2-Benzyloxy-4-((E)-3-oxo-3-phenylpropenyl)-phenyl]-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)\C=C\C(C1=CC=CC=C1)=O)N1CC(N(S1(=O)=O)CC[Si](C)(C)C)=O | C29H32N2O5SSi
